US07507742B2
Trans-3-[(benzyloxy)methyl]cyclobutyl 4-nitrobenzoate
A solution of diethyl azodicarboxylate (2 g, 11.5 mmol) in tetrahydrofuran (5 ml) was added dropwise to a stirred solution of the cyclobutyl alcohol of Preparation 3 (1.05 g, 5.47 mmol), 4-nitrobenzoic acid (1.82 g, 10.9 mmol) and triphenylphosphine (3.016 g, 11.5 mmol) in tetrahydrofuran (20 ml) at 0° C. The reaction mixture was stirred at room temperature for 18 hours. The solvent was evaporated in vacuo and the residue redissolved in diethyl ether (30 ml). The remaining solid was removed by filtration and the filtrate evaporated in vacuo. The crude material was purified by column chromatography over silica gel eluting with 1:10 to 1:3 ethyl acetate:pentane to yield a colourless oil (1.64 g, 4.8 mmol, 88%). 1H-NMR indicated that a 15:1 ratio of trans:cis isomers had been obtained.

reactant | diethyl azodicarboxylate | 11.5 mmol, 2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cyclobutyl alcohol | C1(CCC1)O | C4H8O
reactant | 4-nitrobenzoic acid | 10.9 mmol, 1.82 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | triphenylphosphine | 11.5 mmol, 3.016 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | Trans-3-[(benzyloxy)methyl]cyclobutyl 4-nitrobenzoate | 4.8 mmol, 1.64 g, 88% | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C2)COCC2=CC=CC=C2)C=C1 | C19H19NO5
